US05559141
c) 4-[3,3-bis(4-cyanophenyl)propyl]-1H-imidazole
4-[3,3-bis(4-cyanophenyl)-2-propenyl]-1H-imidazole hydrochloride is hydrogenated in ethanol using 10% Pd/C as a catalyst to give the product.

reactant | 4-[3,3-bis(4-cyanophenyl)-2-propenyl]-1H-imidazole hydrochloride | Cl.C(#N)C1=CC=C(C=C1)C(=CCC=1N=CNC1)C1=CC=C(C=C1)C#N
catalyst | ethanol | C(C)O | C2H6O
product | 4-[3,3-bis(4-cyanophenyl)propyl]-1H-imidazole | C(#N)C1=CC=C(C=C1)C(CCC=1N=CNC1)C1=CC=C(C=C1)C#N | C20H16N4
